US06969710B2
N-{4-(1-Piperazinyl)-2-[(phenylsulfonyl)amino]phenyl}-1-naphthalenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and 1-naphthalenesulfonylchloride (54 mg, 0.239 mmol) according to general method 3 to give 40 mg of a purple solid. MS (posES-FIA) m/z=Found: 523.2. Calcd 523.14. 1H NMR δ 8.83-8.59 (m, 1H), 8.10 (d, 1H), 8.02-7.97 (m, 1H), 7.90 (d, 1H), 7.74-7.38 (m, 8H), 6.69-6.65 (m, 1H), 6.39-6.34 (m, 2H), 3.35-3.14 (m, 8H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | 1-naphthalenesulfonylchloride | 0.239 mmol, 54 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N-{4-(1-Piperazinyl)-2-[(phenylsulfonyl)amino]phenyl}-1-naphthalenesulfonamide | N1(CCNCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)NS(=O)(=O)C1=CC=CC=C1 | C26H26N4O4S2
